US07276606B2
1-[6-(1H-Indol-3-yl)-6H-phenanthridin-5-yl]-2-methyl-propan-1-one was prepared from phenanthridine, isobutyryl chloride, and indole according to GP 2. Yield, 18%. (+)-ESI-MS: m/z=367 [M+H]+, 250 [M-indole+H]+, 180.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | 1-[6-(1H-Indol-3-yl)-6H-phenanthridin-5-yl]-2-methyl-propan-1-one | N1C=C(C2=CC=CC=C12)C1N(C=2C=CC=CC2C2=CC=CC=C12)C(C(C)C)=O | C25H22N2O
